US07691877B2
6-Trifluoromethyl-pyridine-2,4-diol
2,4-Dihydroxy-6-trifluoromethyl-nicotinic acid ethyl ester (62 g/247 mmols) was added in several portions over 30 mins to 6M HCl(aq) (620 mls) at reflux. The resulting mixture was then heated at 100° C. overnight with vigorous stirring to obtain complete solution. The solution was then allowed to cool and concentrated in vacuo to a white solid. This was slurried in water (250 mls) and adjusted to pH 7 with conc. ammonia to get heavy white suspension. The resulting solid was collected by filtration, rinsed through with fresh water, and dried to provide the title compound (44.0 g) as a white solid.

reactant | 2,4-Dihydroxy-6-trifluoromethyl-nicotinic acid ethyl ester | 247 mmols, 62 g | C(C)OC(C1=C(N=C(C=C1O)C(F)(F)F)O)=O | C9H8F3NO4
solvent | HCl | 620 mls | Cl | ClH
product | 6-Trifluoromethyl-pyridine-2,4-diol | 44.0 g | FC(C1=CC(=CC(=N1)O)O)(F)F | C6H4F3NO2
